* REPAIRED DECK -- interventions applied, listed below.
* The literal reconstruction is in the .literal.cir beside this file.
* interventions: 2
*   [assumption/behaviour-changing] placeholder_values: assigned per-class placeholder values (no OCR)
*   [assumption] ideal_inductor_dc: none applied (DC short is well-posed); .nodeset available if singular
* Auto-generated SPICE netlist (NO TEXT OCR USED)

V1 n3 n2 DC 15 AC 1
E1 n6 0 n8 n4 100k
Q1 n4 n5 n10 QPNPdefault
D1 0 n2 Ddefault
D2 n1 n3 Ddefault
D3 n11 n8 Zdefault
D4 0 n3 Ddefault
D5 n2 n1 Ddefault
D6 n5 0 Zdefault
Q2 n1 n6 n9 QNPNdefault
C1 n1 n7 1u
C2 n10 0 1u
L1 n7 0 1m
R1 n1 n5 1k
R2 n11 0 1k
L2 n9 n11 1m
L3 n9 n11 1m
.model Ddefault D
.model QNPNdefault NPN
.model QPNPdefault PNP
.model Zdefault D(bv=5.1)

.op
.end
